US04332820
2-(4-Bromophenoxy)-5-nitrobenzonitrile
To a solution of 5.31 g (0.0307 moles) of 4-bromophenol dissolved in 150 ml of DMSO was added 1.23 g (0.0307 moles) of NaOH. The slurry was heated at 60° C. for 15 minutes and 5.04 g (0.0276 moles) of 2-chloro-5-nitrobenzonitrile was added. The mixture was heated at 75° C. for 4 hrs. The reaction mixture was cooled and poured into water. The product was collected by filtration, washed well with water and dried, which gave 8.1 g of crude product. The crude product was dissolved in CH2Cl2 and washed with 10% aqueous NaOH, water and dried (Na2SO4). Removal of solvent in vacuo gave 7.5 g (85% yield) of product. Recrystallization from ethanol afforded purified 2-(4-bromophenoxy)-5-nitrobenzonitrile, mp 171°-172° C.

reactant | 4-bromophenol | 0.0307 moles, 5.31 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | NaOH | 0.0307 moles, 1.23 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzonitrile | 0.0276 moles, 5.04 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | water | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromophenoxy)-5-nitrobenzonitrile | 7.5 g, 85% yield | BrC1=CC=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1 | C13H7BrN2O3
